US07981886B2
To a solution of benzothiazole (675 mg, 0.55 ml, 5 mmol) in THF (20 ml) at −78° C. was added dropwise n-BuLi (2.5M in Hex, 2 ml) such that the temperature did not exceed −70° C. The brown solution was stirred at this temperature for 15 min before dropwise addition of a solution of [trans-4-(methoxy-methyl-carbamoyl)-cyclohexyl]-carbamic acid tert-butyl ester (716 mg, 2.5 mmol, prepared according to WO 03/053933) in THF (2 ml). The temperature was kept below −70° C. The brown solution was then gradually allowed to reach RT (over 3 h). Mixture was poured into water and extracted with EtOAc. The combined organic extracts were washed with brine and dried over MgSO4 and concentrated under reduced pressure. The residue was purified by chromatography over SiO2 (Hex/EtOAc 4:1 then DCM). The relevant fractions were pooled, evaporated under reduced pressure, digested with Hex and filtered to give 740 mg (82%) of [4-(benzothiazole-2-carbonyl)-cyclohexyl]-carbamic acid tert-butyl ester.

reactant | benzothiazole | 5 mmol, 0.55 ml, 675 mg | S1C=NC2=C1C=CC=C2 | C7H5NS
reactant | n-BuLi | 2.5M, 2 ml | [Li]CCCC
reactant | [trans-4-(methoxy-methyl-carbamoyl)-cyclohexyl]-carbamic acid tert-butyl ester | 2.5 mmol, 716 mg | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)C(N(C)OC)=O)=O | C14H26N2O4
reactant | water | O | H2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | [4-(benzothiazole-2-carbonyl)-cyclohexyl]-carbamic acid tert-butyl ester | 740 mg, 82% | C(C)(C)(C)OC(NC1CCC(CC1)C(=O)C=1SC2=C(N1)C=CC=C2)=O | C19H24N2O3S
